US04011243
Using the conditions described in Example 1, 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol is converted, in similar yield, to 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid and 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)ethanol is converted in similar yield to 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid.

reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propan-1-ol | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(CO)C)C=CC=C3)OC1 | C20H20O3
reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)ethanol | C1OC2(C3=C(C=CC4=C2C=CC(=C4)CCO)C=CC=C3)OC1 | C19H18O3
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC(=O)O | C17H12O3
